US05371231
A solution of 10.6 g (0.06 mol) of diethyl cyanomethylphosphonate and 12.5 g (0.06 mol) of 4-chloro-3trifluoromethyl-benzaldehyde in 65 ml of tetrahydrofuran is added dropwise to a suspension of 6.7 g (0.12 mol) of pulverulent potassium hydroxide in 185 ml of tetrahydrofuran. During this process the temperature of the reaction mixture rises slightly. Stirring is subsequently continued at room temperature for 20 minutes, and the solid which separates out in this process is filtered off and washed with tetrahydrofuran. The filtrate is concentrated in vacuo and the residue which remains is dried. 12.1 g (87.0% of theory) of 4-chloro-3-trifluoromethyl-cinnamonitrile are obtained in the form of an E/Z isomer mixture.

reactant | diethyl cyanomethylphosphonate | 0.06 mol, 10.6 g | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | 4-chloro-3trifluoromethyl-benzaldehyde | 0.06 mol, 12.5 g | ClC1=C(C=C(C=O)C=C1)C(F)(F)F | C8H4ClF3O
reactant | potassium hydroxide | 0.12 mol, 6.7 g | [OH-].[K+]
solvent | tetrahydrofuran | 65 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 185 ml | O1CCCC1 | C4H8O
product | 4-chloro-3-trifluoromethyl-cinnamonitrile | 12.1 g, 87.0% | ClC1=C(C=C(C=CC#N)C=C1)C(F)(F)F | C10H5ClF3N
